US03975443
1-(1-Aminomethylcyclohexyl) piperidine
Piperidine hydrochloride (24.1 g. 0.2 mole) and KCN (13.0 g. 0.2 mole) were dissolved in water (80 ml) and ethanol (160 ml). To this stirred solution was added dropwise a solution of cyclohexanone (19.6 g., 0.2 mole) in ethanol (40 ml), the mixture refluxed for 24 hr. Ethanol was then removed under reduced pressure and the residue extracted with chlorofrom. The extract was washed with water, dried (Na2SO4) and evaporated under reduced pressure to give a pale, amber oil (27.0 g. 68.8%) which crystallized on standing. Recrystallization from ethanol afforded colourless plates of 1-(1-cyanocyclohexyl)piperidine m.p. 67°-8°.

reactant | Piperidine hydrochloride | 0.2 mole, 24.1 g | Cl.N1CCCCC1
reactant | KCN | 0.2 mole, 13.0 g | [C-]#N.[K+]
reactant | cyclohexanone | 0.2 mole, 19.6 g | C1(CCCCC1)=O | C6H10O
solvent | water | 80 ml | O | H2O
solvent | ethanol | 160 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-(1-Aminomethylcyclohexyl) piperidine | NCC1(CCCCC1)N1CCCCC1 | C12H24N2
